US06727264B1
N-[3-(1-{(3S)-3-[(DIPHENYLACETYL)AMINO]-3-PHENYLPROPYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE:
Prepared by Procedure Q1 and Scheme AC using N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide and diphenylacetyl chloride: ESMS m/e: 574.3 (M+H)+.

reactant | N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | N[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C24H33N3O
reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
product | N-[3-(1-{(3S)-3-[(DIPHENYLACETYL)AMINO]-3-PHENYLPROPYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE | C1(=CC=CC=C1)C(C(=O)N[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1)C1=CC=CC=C1 | C38H43N3O2
